US08293768B2
Synthesis of ethyl 2-(3-(cyclopentylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 10, making variations as required to replace cyclopropylmethyl bromide with cyclopentylmethyl 4-methylbenzenesulfonate to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 62% yield: 1H NMR (300 MHz, CDCl3) δ 4.20 (q, J=7.2 Hz, 2H), 4.04-3.99 (m, 2H), 3.52-3.41 (m, 2H), 3.17 (d, J=7.5 Hz, 2H), 2.46 (s, 3H), 2.16-1.08 (m, 12H); MS (ES+) m/z 338.3 (M+1).

reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
reactant | cyclopentylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1CCCC1 | C13H18O3S
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-(cyclopentylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 62% yield | C1(CCCC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C16H23N3O3S
